US03996371
To a cooled (ice/water) solution of 3.7 g. of sodium nitrite predissolved in 20 ml. of water is slowly added 50 ml. of 3N sulfuric acid. To the resulting cooled (ice/water) solution is added dropwise, over a period of 30 minutes, a solution of 12.0 g. of a α-methylsulfinyl-4-trifluoromethyl-o-toluidine predissolved in 200 ml. of 1-propanol, while the temperature is maintained below 10° C. After the reaction mixture is stirred with cooling for an additional 90 minutes, it is allowed to stand overnight at room temperature. The reaction mixture is then nearly concentrated to dryness under vacuum and taken up in 100 ml. of chloroform and 60 ml. of a 15% sodium hydroxide solution. After separation of the phases, the aqueous phase is acidified with concentrated hydrochloric acid and the resulting precipitate filtered off. The acidified aqueous phase is washed three times with chloroform and the combined chloroform extracts are dried over potassium carbonate to a solid. Recrystallization of the crude product from chloroform/hexane yields 3-methylsulfinyl-5-trifluoromethyl indazole, m.p. 168°-170° C.

reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | water | O | H2O
reactant | sulfuric acid | 3N | S(O)(O)(=O)=O | H2O4S
reactant | α-methylsulfinyl-4-trifluoromethyl-o-toluidine | CS(=O)CC=1C(N)=CC=C(C1)C(F)(F)F | C9H10F3NOS
solvent | 1-propanol | C(CC)O | C3H8O
product | 3-methylsulfinyl-5-trifluoromethyl indazole | CS(=O)C1=NNC2=CC=C(C=C12)C(F)(F)F | C9H7F3N2OS
